US06653313B2
D. Dimethyl 4-(2,6-dichlorophenyl)-2-(2-methoxy-2-oxoethyl)-6-[2-[2-[[2-(tritylamino)ethoxy]methyl]phenyl]ethyl]-1,4-dihydro-3,5-pyridinedicarboxylate
To a stirred solution of 2-methyl-2-propanol (1.25 g, 16.9 mmol) in anhydrous THF (50 ml) was added dropwise a 0.95 M solution of MeMgBr in THF (17.8 ml, 16.0 mmol) at room temperature under nitrogen atmosphere. The resulting solution was stirred at room temperature for 0.5 hour. Then to the mixture was added a solution of dimethyl 3-amino-2-pentenedioate (1.33 g, 7.66 mmol) in anhydrous THF (20 ml) dropwise at room temperature. The resulting pale yellow solution was stirred at the same temperature for 0.5 hour, then a solution of methyl 3-(2,6-dichlorophenyl)-2-[3-[2-[[2-(tritylamino)ethoxy]methyl]phenyl]propanoyl]-2-propenoate (6.38 mmol) in anhydrous THF (20 ml) was added at room temperature. The reaction mixture was stirred at room temperature for 8 h under nitrogen atmosphere, then acetic acid (3 ml) was added. The resulting mixture was stirred at room temperature for 16 hours. The mixture was poured into water, and the whole was extracted with ethyl acetate (20 ml×2). The combined organic layers were washed with 2N-HClaq. (50 ml) and sat.NaHCO3aq. (50 ml), dried over MgSO4 and concentrated to afford a crude mixture. Purification on silica gel column chromatography eluted with hexane/EtOAc (3/1) to afford the titled compound as a yellow amorphous. (3.80 g, 85%).

reactant | 2-methyl-2-propanol | 16.9 mmol, 1.25 g | CC(C)(C)O | C4H10O
reactant | MeMgBr | C[Mg+].[Br-]
reactant | dimethyl 3-amino-2-pentenedioate | 7.66 mmol, 1.33 g | NC(=CC(=O)OC)CC(=O)OC | C7H11NO4
reactant | methyl 3-(2,6-dichlorophenyl)-2-[3-[2-[[2-(tritylamino)ethoxy]methyl]phenyl]propanoyl]-2-propenoate | 6.38 mmol | ClC1=C(C(=CC=C1)Cl)C=C(C(=O)OC)C(CCC1=C(C=CC=C1)COCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C41H37Cl2NO4
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 16.0 mmol, 17.8 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | Dimethyl 4-(2,6-dichlorophenyl)-2-(2-methoxy-2-oxoethyl)-6-[2-[2-[[2-(tritylamino)ethoxy]methyl]phenyl]ethyl]-1,4-dihydro-3,5-pyridinedicarboxylate | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC(=C1C(=O)OC)CCC1=C(C=CC=C1)COCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)OC)C(=O)OC | C48H46Cl2N2O7
